US08686002B2
14.5 2-(Hydroxyamino)-3-(2-methoxybenzyl)-3,4-dihydroquinazoline
0.6 g (2.01 mmol) 3-(2-methoxybenzyl)-2-(methylthio)-3,4-dihydroquinazoline and 265 mg hydroxylamine in 10 mL isopropanol were heated at reflux for approx. 36 hours. For workup, the mixture was evaporated, the resulting residue was recrystallized in a mixture of diethyl ether/methyl tert-butyl ether 1:1 and then lyophilized by MPLC (silica gel: Bischoff Prontoprep 60-2540-C18E, 32 μm; mobile phase: CH3CN/H2O+0.1% acetic acid). 300 mg white solids.

reactant | 3-(2-methoxybenzyl)-2-(methylthio)-3,4-dihydroquinazoline | 2.01 mmol, 0.6 g | COC1=C(CN2C(=NC3=CC=CC=C3C2)SC)C=CC=C1 | C17H18N2OS
reactant | hydroxylamine | 265 mg | NO | H3NO
solvent | isopropanol | 10 mL | C(C)(C)O | C3H8O
product | 2-(Hydroxyamino)-3-(2-methoxybenzyl)-3,4-dihydroquinazoline | ONC1=NC2=CC=CC=C2CN1CC1=C(C=CC=C1)OC | C16H17N3O2
